US05506239
6.6 ml of 3-chloropropanesulfonyl chloride was dropwise added, at 0° C., to a dichloromethane solution containing 8 g of 6-(4-benzylaminobutoxy)carbostyril and 7.6 ml of triethylamine. The mixture was stirred at room temperature for 1 day. The reaction mixture was washed with 10% hydrochloric acid and water in this order and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was dissolved in 30 ml of dioxane. To the solution was added 10 ml of a 10% potassium hydroxide solution, followed by stirring at room temperature for 30 minutes. The reaction mixture was neutralized with 10% hydrochloric acid, followed by extraction with chloroform. The extract was dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was crystallized from diethyl ether to obtain 7.3 g of 6-{4-[N-(3-chloropropylsulfonyl)-N-benzylamino]butoxy}carbostyril.

reactant | 3-chloropropanesulfonyl chloride | 6.6 ml | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 6-(4-benzylaminobutoxy)carbostyril | 8 g | C(C1=CC=CC=C1)NCCCCOC=1C=C2C=CC(NC2=CC1)=O | C20H22N2O2
solvent | triethylamine | 7.6 ml | C(C)N(CC)CC | C6H15N
product | 6-{4-[N-(3-chloropropylsulfonyl)-N-benzylamino]butoxy}carbostyril | 7.3 g | ClCCCS(=O)(=O)N(CC1=CC=CC=C1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C23H27ClN2O4S
